US05306695
7.23 g of 2-chloro-4-difluoromethoxybenzoyl chloride and 2.80 g of 1,3-cyclohexanedione are introduced into 30 ml of acetonitrile, and 6.32 g of triethylamine is added dropwise in such a manner that the internal temperature does not exceed 40° C. The mixture is subsequently stirred for 15 minutes at room temperature, 1.95 g of acetone cyanohydrin are added, and stirring is continued for 3 hours at room temperature. The reaction mixture is diluted with 100 ml of ethyl acetate and 50 ml of 1N hydrochloric acid are added. After vigorous shaking, the phases are separated, and the organic phase is extracted twice with 50 ml portions of 5% strength potassium carbonate solution. The combined aqueous phases are acidified using concentrated hydrochloric acid and reextracted using dichloromethane (2 times 50 ml). The mixture is dried over magnesium sulfate, the solvent is stripped off, and 6.9 g (87% of theory) of 2-(2-chloro-4-difluoromethoxybenzoyl)-cyclohexane-1,3-dione are then obtained as pale yellow crystals of melting point 68°-72° C.

reactant | 2-chloro-4-difluoromethoxybenzoyl chloride | 7.23 g | ClC1=C(C(=O)Cl)C=CC(=C1)OC(F)F | C8H4Cl2F2O2
reactant | 1,3-cyclohexanedione | 2.80 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | acetone cyanohydrin | 1.95 g | CC(C#N)(O)C | C4H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | triethylamine | 6.32 g | C(C)N(CC)CC | C6H15N
product | 2-(2-chloro-4-difluoromethoxybenzoyl)-cyclohexane-1,3-dione | 6.9 g, 87% | ClC1=C(C(=O)C2C(CCCC2=O)=O)C=CC(=C1)OC(F)F | C14H11ClF2O4
